US07589206B2
(c) 4-Bromo-1-(tert-butyl-dimethyl-silanyl)-7-chloro-1H-pyrrolo[2,3-c]pyridine
To a solution of 4-bromo-7-chloro-1H-pyrrolo[2,3-c]pyridine (1.64 g) in dry tetrahydrofuran (80 ml) at 0° C. under an atmosphere of nitrogen was added portionwise sodium hydride (60% dispersion in mineral oil, 625 mg). After addition, the solution was stirred at room temperature for 30 minutes. The solution was then recooled to 0° C. and a solution of tert-butyldimethylsilyl trifluoromethanesulphonate (3.75 g) in dry tetrahydrofuran (20 ml) was added dropwise. The solution was partitioned between ethyl acetate (100 ml) and water (100 ml) and washed with water until the pH of the aqueous was neutral. The organic layer was dried (MgSO4) and evaporated to give a brown oil. The residue was purified by Biotage chromatography over silica gel (10 g), eluting with 10% ethyl acetate/isohexane to give the title compound as a red oil. (1.63 g).

reactant | 4-bromo-7-chloro-1H-pyrrolo[2,3-c]pyridine | 1.64 g | BrC1=C2C(=C(N=C1)Cl)NC=C2 | C7H4BrClN2
reactant | sodium hydride | 625 mg | [H-].[Na+]
reactant | tert-butyldimethylsilyl trifluoromethanesulphonate | 3.75 g | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-Bromo-1-(tert-butyl-dimethyl-silanyl)-7-chloro-1H-pyrrolo[2,3-c]pyridine | BrC1=C2C(=C(N=C1)Cl)N(C=C2)[Si](C)(C)C(C)(C)C | C13H18BrClN2Si
